US09126931B2
8-((R)-2,3-Dihydroxy-propoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
To the solution of THF and water (4:1, 1 mL) of 8-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound A14-1, 30 mg, 0.07 mmol), camphor sulfonic acid (36 mg, 0.14 mmol) was added at room temperature. After stirring at room temperature for 38 hr, the mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate. The drying agent was removed by filtration and the residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (dichloromethane/methanol) to obtain the title compound (white solid, 28 mg, 72%).

reactant | THF | C1CCOC1 | C4H8O
reactant | 8-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.07 mmol, 30 mg | CC1(OCC(O1)COC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1)C | C25H24N2O4
reactant | camphor sulfonic acid | 0.14 mmol, 36 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | water | 1 mL | O | H2O
product | 8-((R)-2,3-Dihydroxy-propoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 28 mg, 72% | O[C@@H](COC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1)CO | C22H20N2O4
